US07943619B2
4-Methyl-N-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-benzamide
As described for example 18, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine (280 mg, 1 mmol) was converted, using p-toluoyl chloride instead of methoxyacetyl chloride, to the title compound (320 mg, 80%) which was obtained as a white solid. MS: m/e=401.3 [M+H]−.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine | 1 mmol, 280 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)N | C15H14N4O2
reactant | p-toluoyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
product | 4-Methyl-N-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-benzamide | 320 mg, 80% | CC1=CC=C(C(=O)NC=2N=NC(=CC2)OCC=2C(=NOC2C)C2=CC=CC=C2)C=C1 | C23H20N4O3
